US09029560B2
Preparation of (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine (C16)
In a 200 mL round bottomed flask equipped with a magnetic stir bar, benzyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate (C14) (0.850 g, 1.82 mmol) was diluted with a solution of hydrogen bromide in acetic acid (33 wt %, 15.0 mL, 1.82 mmol). The suspension was allowed to stir for 1 hour. Diethyl ether (150 mL) was added, and the reaction mixture was stirred for an additional 30 minutes. The resulting precipitate was collected via filtration and treated with aqueous sodium hydroxide. The resulting suspension was extracted with ethyl acetate (3×75 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated to afford the title compound as a white solid (0.448 g, 74%): 1H NMR (400 MHz, DMSO-d6) δ 9.39 (s, 1H), 8.07 (dd, J=10.6, 8.6 Hz, 4H), 7.69-7.56 (m, 2H), 7.48 (d, J=8.2 Hz, 2H), 3.79 (s, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.98; ESMIS m/z 318 ([M+H]+) (—NH2).

reactant | benzyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylcarbamate | 1.82 mmol, 0.850 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1)(F)F | C24H19F3N4O3
reactant | acetic acid | 1.82 mmol, 15.0 mL | C(C)(=O)O | C2H4O2
reactant | Diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | hydrogen bromide | Br | BrH
product | (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine | 0.448 g, 74% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)(F)F | C16H13F3N4O
